US07902220B2
a. (4,4-Difluoro-cyclohexylmethyl)-(2-hydroxy-ethyl)-carbamic acid benzyl ester
Benzyl chloroformate (4.8 mL, 33.2 mmol) was added to a solution of 2-[(4,4-difluoro-cyclohexylmethyl)-amino]-ethanol (6.41 g, 33.2 mmol) and DIPEA (5.8 mL) in DCM (200 mL) and the reaction mixture was stirred for 1 h. The reaction mixture was washed with 0.1 N HCl (150 mL) and then with water (100 mL). The organic layer was collected, dried over anhydrous sodium sulfate, filtered, and concentrated to give the title product as a clear oil (9.1 g) which partially crystallized overnight.

reactant | Benzyl chloroformate | 33.2 mmol, 4.8 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | 2-[(4,4-difluoro-cyclohexylmethyl)-amino]-ethanol | 33.2 mmol, 6.41 g | FC1(CCC(CC1)CNCCO)F | C9H17F2NO
reactant | DIPEA | 5.8 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 200 mL | C(Cl)Cl | CH2Cl2
product | (4,4-Difluoro-cyclohexylmethyl)-(2-hydroxy-ethyl)-carbamic acid benzyl ester | 9.1 g | C(C1=CC=CC=C1)OC(N(CCO)CC1CCC(CC1)(F)F)=O | C17H23F2NO3
